US09168245B2
Synthesis of intermediate V-g: 2-Methyl-5-(3-morpholin-4-yl-propoxy)-phenylamine
A solution of the 4-[3-(4-methyl-3-nitro-phenoxy)-propyl]-morpholine V-i (350 mg, 1.25 mmol) in 90% EtOH (15 mL) was treated with SnCl2.H2O (1.58 g, 6.24 mmol) and conc. HCl (1.04 mL, 12.5 mmol) and heated to reflux for 1 h. The cooled solution was concentrated under reduced pressure and taken to pH=8 with a saturated solution of NaHCO3 then extracted with EtOAc. The combined organics were dried (MgSO4), filtered and evaporated to the desired product V-g as a viscous yellow oil (306 mg, 98%). 1H NMR (300 MHz, CDCl3) δ 6.92 (d, J=8.8 Hz, 1H), 6.30-6.24 (m, 2H), 3.96 (t, J=6.3 Hz, 2H), 3.76-3.69 (m, 4H), 3.58 (s, 2H), 2.57-2.42 (m, 6H), 2.09 (s, 3H), 1.93 (dt, J=13.3, 6.5 Hz, 3H).

reactant | 4-[3-(4-methyl-3-nitro-phenoxy)-propyl]-morpholine | CC1=C(C=C(OCCCN2CCOCC2)C=C1)[N+](=O)[O-] | C14H20N2O4
reactant | SnCl2.H2O | 6.24 mmol, 1.58 g | Cl[Sn]Cl.O
reactant | HCl | 12.5 mmol, 1.04 mL | Cl | ClH
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-Methyl-5-(3-morpholin-4-yl-propoxy)-phenylamine | CC1=C(C=C(C=C1)OCCCN1CCOCC1)N | C14H22N2O2
